Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
diltiazem
 
Attending: ___.
 
Chief Complaint:
Acute kidney injury
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old male with history of paroxysmal atrial fibrillation 
on warfarin, and HTN on thiazide, who presented with elevated 
creatinine in the setting of viral infection and several weeks 
of poor oral intake.

Patient reported recent illness with poor oral intake and 
symptoms for nearly a week including headache, nausea, myalgia, 
fatigue, decreased appetite, and chills but no vomiting, 
diarrhea, dyspnea, cough, or rhinitis. Reported taking 
acetaminophen, which helped with myalgias and chills. Reported 
no use of NSAIDs.  After a week, his symptoms were diminishing 
when he received routine blood test to measure his INR, which 
was found to be supratherapeutic at 5.9. This prompted him to 
visit his physician, where chemistry panel revealed acutely 
elevated Cr of 2.7 the next day, and he was advised to visit the 
ED.

In the ED (___), initial VS were: T 98.0, BP 98/73, HR 48, RR 
16, SaO2 98%RA
ED was concerned for "dehydration." Initial labs showed BUN of 
69 and Cr of 2.7 and a prolonged ___, PTT, and supratherapeutic 
INR of 5.8. UA revealed 21 WBCs, 12 RBCs, protein 30, negative 
for nitrite or bacteria, 0 epithelial cells. 
He received over 4L NS and vitamin K. Afterwards, BP rose to 
126/65. Repeat labs on ___ showed mild decrease in BUN and Cr to 
52 and 2.3 respectively and decrease in INR to 2.9. Decision was 
made to admit due to elevated Cr despite fluid resuscitation.

Transfer VS were T 98.3, BP 1134/57, HR 45, RR 18, SaO294%

Decision was made to admit to medicine for further management.  

On arrival to the floor, patient reported resolution of 
headache, myalgia, fatigue, and chills. Denied any urinary 
symptoms such as changes in urinary frequency, dysuria, flank 
pain, frank hematuria. No vomiting/diarrhea, mild nausea. 
Reported making urine. Denied dyspnea, orthopnea or cough.
 
Past Medical History:
Breast lump (benign hemangioma)
BPH
Hypertension
Paroxysmal atrial fibrillation
Sleep apnea
___ disease (documented in OMR, although patient refutes)
Osteoarthritis
Seborrheic keratosis
 
Social History:
___
Family History:
-Parents are both deceased.  Father ___ years; CAD); Mother ___ 
years; leukemia, multiple myeloma).  A brother is deceased (___, 
pancreatic cancer).
-He has 3 children (daughter ___- bilateral hearing loss, 
developmental disabilities, hypothyroidism; son, ___, ___ - 
sleep apnea/CPAP; daughter ___ years (Crohn's colitis).
-His 3 grandchildren (17, 14, 11) are well. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM 
=======================
VS - T98.4, BP 131/60, HR 51, RR 18, SaO2 95%RA
GENERAL: elderly gentleman lying in bed in NAD
HEENT: AT/NC, EOMI, PERRL, icteric sclera, pink conjunctiva, dry 
mucous membranes, good dentition
NECK: nontender supple neck
CARDIAC: regular, S1/S2, ___ systolic murmur at ___, no gallops 
or rubs  
LUNG: CTAB, normal work of breathing on RA
ABDOMEN: mildly distended, +BS, nontender in all quadrants, no 
rebound/guarding, no CVA or suprapubic tenderess
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose; osteoarthritic changes in DIP and MIP 
of both hands
NEURO: AOx3, CN II-XII intact

DISCHARGE PHYSICAL EXAM 
=======================
VS - T98.6F , BP 124/68, HR 52, RR 16, SaO2 98%RA
GENERAL: elderly gentleman lying in bed in NAD
HEENT: NCAT, EOMI, PERRL, icteric sclera, pink conjunctiva, dry 
mucous membranes, good dentition
NECK: nontender, supple neck
CARDIAC: regular, S1/S2, ___ systolic murmur at ___, no gallops 
or rubs  
LUNG: CTAB, normal work of breathing on RA
ABDOMEN: mildly distended, +BS, nontender in all quadrants, no 
rebound/guarding, no CVA or suprapubic tenderess
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose; osteoarthritic changes in DIP and MIP 
of both hands
NEURO: AOx3, CN II-XII intact, strength ___ ___, gait normal 
 
Pertinent Results:
ADMISSION LABS
==============
___ 01:50PM BLOOD WBC-8.1 RBC-3.77* Hgb-11.4* Hct-35.6* 
MCV-94 MCH-30.2 MCHC-32.0 RDW-12.9 RDWSD-44.5 Plt ___
___ 01:50PM BLOOD Neuts-64.8 ___ Monos-9.7 Eos-2.4 
Baso-0.5 Im ___ AbsNeut-5.24 AbsLymp-1.79 AbsMono-0.78 
AbsEos-0.19 AbsBaso-0.04
___ 11:24AM BLOOD ___ PTT-69.6* ___
___ 01:50PM BLOOD UreaN-66* Creat-2.7* Na-135 K-3.9 Cl-99 
HCO3-22 AnGap-18
___ 01:50PM BLOOD ALT-10 AST-10 AlkPhos-75 TotBili-0.6
___ 01:50PM BLOOD CRP-65.5*
Test                          Result              Reference 
Range/Units
SED RATE BY MODIFIED          77  H               < OR = 20 mm/h
WESTERGREN                                        
___ 11:24AM URINE Color-Yellow Appear-Clear Sp ___
___ 11:24AM URINE Blood-SM  Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-MOD
___ 11:24AM URINE RBC-12* WBC-21* Bacteri-NONE Yeast-NONE 
Epi-0
___ 11:24AM URINE Mucous-RARE
___ 11:24AM URINE Hours-RANDOM UreaN-763 Creat-85 Na-39 
K-44 Cl-28 TotProt-39 Prot/Cr-0.5*
___ 11:24AM URINE Osmolal-449

DISCHARGE/INTERVAL LABS
=======================
___ 11:24AM BLOOD WBC-9.1 RBC-3.52* Hgb-10.7* Hct-32.3* 
MCV-92 MCH-30.4 MCHC-33.1 RDW-12.9 RDWSD-43.2 Plt ___
___ 06:40AM BLOOD WBC-11.9* RBC-3.09* Hgb-9.4* Hct-28.2* 
MCV-91 MCH-30.4 MCHC-33.3 RDW-13.1 RDWSD-43.4 Plt ___
___ 06:45AM BLOOD ___ PTT-47.6* ___
___ 06:40AM BLOOD ___ PTT-36.2 ___
___ 11:24AM BLOOD Glucose-50* UreaN-69* Creat-2.7* Na-138 
K-3.7 Cl-102 HCO3-24 AnGap-16
___ 06:45AM BLOOD Glucose-94 UreaN-54* Creat-2.4* Na-142 
K-3.7 Cl-112* HCO3-17* AnGap-17
___ 12:45PM BLOOD Glucose-103* UreaN-52* Creat-2.3* Na-143 
K-3.9 Cl-115* HCO3-19* AnGap-13
___ 06:40AM BLOOD Glucose-91 UreaN-42* Creat-2.4* Na-140 
K-3.6 Cl-112* HCO3-19* AnGap-13
___ 06:40AM BLOOD TotProt-6.2* Albumin-3.3* Globuln-2.9 
Calcium-8.1* Phos-2.5* Mg-2.3

MICROBIOLOGY
============
___ 1:50 pm SEROLOGY/BLOOD

                            **FINAL REPORT ___

   LYME SEROLOGY (Final ___: 
      NO ANTIBODY TO B. BURGDORFERI DETECTED BY EIA. 
      Reference Range:  No antibody detected. 
      Negative results do not rule out B. burgdorferi infection. 
 Patients
      in early stages of infection or on antibiotic therapy may 
not produce
      detectable levels of antibody.  Patients with clinical 
history and/or
      symptoms suggestive of lyme disease should be retested in 
___ weeks. 

Time Taken Not Noted     Log-In Date/Time: ___ 1:55 pm
      URINE      TAKEN FROM ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    <10,000 organisms/ml. 

IMAGING
=======
___ RENAL ULTRASOUND IMPRESSION: 1. No hydronephrosis. 2. 
Bilateral renal cysts. 3. Prostate volume of 30.1 cc. 
 
Brief Hospital Course:
___ year-old male with history of paroxysmal atrial fibrilation 
on warfarin, and hypertension on thiazide, who presents with 
acute kidney injury in the setting of recent suspected viral 
infection and one week of poor oral intake.

# ACUTE KIDNEY INJURY
Referred to ED for Cr of 2.7 from baseline 1.0-1.2. Initial 
concern was for hypovolemia given history of poor oral intake 
and suspected viral illness. Urinalysis notable for microscopic 
hematuria, moderate pyuria, and 30 mg/dL protein. Following IVF 
resuscitation with 3 liters of normal saline in ED, his 
creatinine remained elevated at 2.3 so he was admitted for 
evaluation of ___. Elevated BUN:Cr ratio, dry mucous membranes 
and FENa 0.9% (___) consistent with prerenal azotemia. ATN from 
hypovolemia in the setting of acute illness or 
glomerulonephritis given hematuria were considered, so urine 
sedimentation was analyzed, which showed RBCs without 
dysmorphism and no muddy brown or RBC casts arguing against 
intrinsic renal disease such as GN or ATN. Renal ultrasound with 
no signs of obstruction arguing against post-obstructive 
nephropathy. Denied any active or recent BPH symptoms. 
Antibiotics were deferred given lack of infectious symptoms and 
culture was ultimately negative. After discussion with the 
patient and family regarding ongoing workup vs. appropriate 
monitoring, he was discharged to home with recommendation to 
continue hydrating, trend creatinine over next week, repeat U/A 
and follow-up with PCP with possible ___ referral if his 
kidney function remained below baseline. Lisinopril and 
hydrochlorothiazide temporarily held given decreased renal 
function to be restarted at PCP ___.

# BENIGN PROSTATIC HYPERPLASIA
Chronic, stable. Patient denied any urinary symptoms such as 
changes in frequency, flow, gross hematuria or perineal 
tenderness/pain. Renal ultrasound revealed normal-sized prostate 
at 30.1 cc with no signs of acute obstruction. Terazosin was 
continued during hospital course.

# PAROXYSMAL ATRIAL FIBRILLATION: CHADS-2 of 2 (hypertension, 
age) on warfarin. Presented with supratherapeutic INR on 
admission of 5.8. Received vitamin K on ___ in ED and INR 
returned to 2.9 on ___. Received 8mg warfarin on ___, which 
was last scheduled dose before discharge. Recommended continuing 
warfarin as prescribed and recheck INR on ___. Heart rate 
monitored on telemetry notable for asymptomatic sinus 
bradycardia. Sotalol was discontinued and replaced with 
metoprolol succinate given creatinine clearance<40ml/min. 
Outpatient Cardiologist (Dr. ___ notified; plans to 
restart sotalol and discontinue metoprolol if CrCl improved.

# HYPERTENSION: held lisinopril and HCTZ given ___. Remained 
normotensive off of antihypertensives. 

TRANSITIONAL ISSUES
===================
-f/u with PCP, ___
--- ___ renal workup for ___ if Cr remains elevated, 
provided lab script for draw on ___
--- consider repeat Cr on ___s well as 
interval U/A to determine if ongoing microscopic hematuria
- paroxysmal atrial fibrillation management per Dr. ___, 
___ of change from sotalol to metoprolol on discharge given 
CrCl<40ml/min
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. azelastine 137 mcg (0.1 %) nasal BID 
2. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
3. Hydrochlorothiazide 12.5 mg PO 4X/WEEK (___) 
4. Lisinopril 20 mg PO DAILY 
5. Simvastatin 10 mg PO QPM 
6. Omeprazole 20 mg PO DAILY 
7. Sotalol 40 mg PO DAILY 
8. Terazosin 6 mg PO QHS 
9. Sildenafil 50 mg PO DAILY:PRN ED 
10. Warfarin 10 mg PO 3X/WEEK (___) 
11. Warfarin 8 mg PO 4X/WEEK (___) 

 
Discharge Medications:
1. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
2. Omeprazole 20 mg PO DAILY 
3. Simvastatin 10 mg PO QPM 
4. Terazosin 6 mg PO QHS 
5. Warfarin 10 mg PO 3X/WEEK (___) 
6. Warfarin 8 mg PO 4X/WEEK (___) 
7. azelastine 137 mcg (0.1 %) nasal BID 
8. Sildenafil 50 mg PO DAILY:PRN ED 
9. Metoprolol Succinate XL 50 mg PO DAILY 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth daily Disp 
#*14 Tablet Refills:*0
10. Outpatient Lab Work
Chem10, ___
ICD-9 584 (___)
ICD 10: I48.91 (unspec atrial fibrillation)
ATTN: ___, ___ ___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute kidney injury
Microscopic hematuria
Renal cysts
Paroxysmal atrial fibrillation
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Dr. ___,

___ were seen at ___ for poor kidney function. ___ were 
referred to the hospital by your PCP after ___ blood test showed 
that your creatinine levels were elevated at 2.7, a sign of 
decreased kidney function. At the hospital, ___ were found to be 
depleted of fluids, so ___ received several liters of 
intravenous saline. However, your creatinine remained elevated 
at 2.3, a sign that the kidney function was still lower than 
normal. As a result ___ were admitted to the hospital for 
further observation and evaluation.

An ultrasound of your kidneys was performed which showed that 
___ do not have kidney stones or any signs of obstruction; 
incidentally it did show small cysts on both kidneys (which is 
common and not likely a significant cause for your 
presentation). Your urine was examined for evidence of kidney 
injury, which showed that there is a very small amount of blood 
in your urine but no other signs of what caused your kidney 
function to decrease. Because of the change in kidney function, 
your sotalol, a medication for your atrial fibrillation, was 
temporarily changed to metoprolol (dosing 50mg daily). We have 
communicated these changes to Dr. ___. Your 
hydrochlorothiazide and lisinopril have also been held 
temporarily and will be restarted at Dr. ___.

Please see your primary care doctor for another blood test on 
___ to check your kidney function and to coordinate your 
medication doses. We also recommend that ___ be seen by a 
Nephrologist for further evaluation. Please continue to take a 
regular diet and drink water to thirst. 

It was a pleasure taking care of ___. We wish ___ the best in 
your health.

- Your ___ Team
 
Followup Instructions:
___